US04750931
A stirred solution of 4-benzyloxy-3,5-difluoro-bromobenzene (9.87 g, 0.033 mole) in ether (100 ml) under an atmosphere of argon was cooled to less than 31 70° C. in a dry ice-acetone bath. To this solution was slowly added a solution of butyllithium in hexane (1.5M, 22 ml, 0.033 moles). Stirring was continued for 30 minutes after the addition was complete. In a separate apparatus, a stirred solution of trimethylborate (3.1 g, 0.033 mole) in ether (50 ml) under an atmosphere of argon was cooled to less than -70° C. The freshly prepared benzyloxyphenyllithium formed in the first reaction solution was slowly transferred to the trimethylborate/ether solution by way of a double-tipped stainless steel needle. The addition was at such a rate that the reaction temperature was maintained at less than -66° C. After the addition was complete, the temperature was allowed to rise to room temperature. At this point, 10 percent hydrochloric acid (25 ml) was carefully added. After stirring an additional 15 minutes, the aqueous phase was separated and discarded. The organic phase was treated with 10 percent hydrogen peroxide (20 ml) and the resulting mixture stirred and heated at reflux for 24 hours. After cooling, the aqueous phase was separated and discarded. The organic layer was washed with 10 percent ferrous ammonium sulfate (25 ml), then with water (50 ml). After drying (MgSO4), the ether was evaporated to yield a brown oil (7.1 g, 91 percent) which solidified upon standing. G.C. showed that this material was approximately 92 percent pure. The proton and fluorine NMR spectra were consistent with the desired structure. Recrystallization of this material from hexane/ether gave a partially purified sample: m.p.=42°-44° C. It was used without additional purification.

reactant | 4-benzyloxy-3,5-difluoro-bromobenzene | 0.033 mole, 9.87 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)Br)F | C13H9BrF2O
reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 0.033 moles, 1.5M, 22 ml | CCCCCC | C6H14
reactant | trimethylborate | 0.033 mole, 3.1 g | COB(OC)OC | C3H9BO3
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | benzyloxyphenyllithium | C(C1=CC=CC=C1)OC1=C(C=CC=C1)[Li] | InChI=1S/C13H11O.Li/c1-3-7-12(8-4-1)11-14-13-9-5-2-6-10-13;/h1-9H,11H2;
